US04748165
A solution of 5-[4-(3-ethylthioureido)-1,2,3-triazol-2-yl]valeronitrile (2.2 g.) in methanolic ammonia (6M; 20 ml.) was treated with yellow mercuric oxide (2.08 g.) and the resulting suspension stirred at room temperature for 18 hours. The suspension was filtered through diatomaceous earth and the filtrate evaporated to give an oil which was purified by medium pressure chromatography using EtOAc then MeOH/EtOAc 1:1 v/v as eluants to give 5-[4-[2-ethylguanidino)-1,2,3-triazol-2-yl]valeronitrile (1.35 g.).

reactant | 5-[4-(3-ethylthioureido)-1,2,3-triazol-2-yl]valeronitrile | 2.2 g | C(C)NC(NC1=NN(N=C1)CCCCC#N)=S | C10H16N6S
reactant | ammonia | 6M, 20 ml | N | H3N
product | 5-[4-[2-ethylguanidino)-1,2,3-triazol-2-yl]valeronitrile | 1.35 g | C(C)N=C(NC1=NN(N=C1)CCCCC#N)N | C10H17N7
